US08541448B2
Compound 168, N1,N4-bis(2-(2-(2-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylsulfonamido)ethoxy)ethoxy)ethyl)-2,3-dihydroxysuccinamide
Into a 50-mL round-bottom flask was placed a solution of N-(2-(2-(2-aminoethoxy)ethoxy)ethyl)-3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide (300 mg, 0.60 mmol, 1.00 equiv) in DMF (5 mL), bis(2,5-dioxopyrrolidin-1-yl) 2,3-dihydroxysuccinate (92.5 mg, 0.27 mmol, 0.45 equiv) and triethylamine (TEA; 1.0 g, 9.88 mmol, 16.55 equiv). The resulting solution was stirred overnight at room temperature and then concentrated under vacuum. The crude product (300 mg) was purified by Prep-HPLC with the following conditions: Column, SunFire Prep C18, 5 um, 19*150 mm; mobile phase, Water with 0.05% TFA and CH3CN (20% CH3CN up to 40% in 5 min, up to 100% in 2 min); Detector, uv 220&254 nm. This resulted in 192.4 mg (28%) of a TFA salt of the title compound as a white solid. 1H-NMR (300 MHz, DMSO, ppm) δ 7.92 (d, J=7.8 Hz, 2H), 7.82 (m, 2H), 7.67 (t, J=7.8 Hz, 2H), 7.57 (m, 2H), 7.55 (d, J=6.9 Hz, 2H), 6.86 (m, 2H), 4.84 (s, 2H), 4.79 (s, 2H), 4.54 (d, 2H), 4.48 (s, 2H), 3.92 (m, 2H), 3.53 (m, 22H), 3.18 (s, 6H), 3.07 (t, J=5.4 Hz, 4H). MS (m/z): 1119 [M+H]+.

reactant | N-(2-(2-(2-aminoethoxy)ethoxy)ethyl)-3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzenesulfonamide | 0.60 mmol, 300 mg, 1.00 equiv | NCCOCCOCCNS(=O)(=O)C1=CC(=CC=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C | C22H29Cl2N3O4S
reactant | bis(2,5-dioxopyrrolidin-1-yl) 2,3-dihydroxysuccinate | 0.27 mmol, 92.5 mg, 0.45 equiv | OC(C(=O)ON1C(CCC1=O)=O)C(C(=O)ON1C(CCC1=O)=O)O | C12H12N2O10
reactant | triethylamine | 9.88 mmol, 1.0 g, 16.55 equiv | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N1,N4-bis(2-(2-(2-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylsulfonamido)ethoxy)ethoxy)ethyl)-2,3-dihydroxysuccinamide | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)NCCOCCOCCNC(C(C(C(=O)NCCOCCOCCNS(=O)(=O)C1=CC(=CC=C1)C1CN(CC2=C(C=C(C=C12)Cl)Cl)C)O)O)=O | C48H60Cl4N6O12S2
